US06090825
5-(2-{4-[5-(4-Fluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl}-ethyl)-2-hydroxy-benzenesulfonamide
A solution of [5-(4-fluoro-phenyl)-2-piperidin-4-yl-oxazol-4-yl]methanol (0.20 g; 0.72 mmol) in dry dioxane (6 ml) is treated with 5-(2-chloroethyl)-2-hydroxy-benzenesulfonamide (0.36 g; 1.45 mmol), sodium iodide (0.22 g; 1.45 mmol) and diisopropylethylamine (0.50 ml; 2.88 mmol) and heated to 100 C. for 16 hours. The reaction is cooled and partitioned between ethyl acetate (30 ml) and water (10 ml). The aqueous phase is washed with ethyl acetate (2×15 ml), dried over sodium sulfate and concentrated to dryness. Purification by radial chromatography using a methanol/ethyl acetate gradient (5%-40%) is followed by a second chromatography using a methanol/dichloromethane gradient (5%-30%). Crystallization from methanol/ethyl acetate afforded the product as a white solid (0.055 g; 16%). HNMR (CD3OD): 7.75 (m, 2H), 7.64 (d, 1H, J=2.1 Hz), 7.31 (dd, 1H, J=8.4; 2.1 Hz), 7.23 (t, 2H, J=8.8 Hz), 6.92 (d, 1H, J=8.4 Hz), 4.63 (s, 2H), 3.12 (m, 2H), 2.96 (m, 1H), 2.82 (m, 2H), 2.66 (m, 2H), 2.34 (m, 2H), 2.17 (m, 2H), 1.99 (m, 2H). Mass spectrum: m/e calculated (MH+)=476.6; observed (MH+)=476.2.

reactant | [5-(4-fluoro-phenyl)-2-piperidin-4-yl-oxazol-4-yl]methanol | 0.72 mmol, 0.20 g | FC1=CC=C(C=C1)C1=C(N=C(O1)C1CCNCC1)CO | C15H17FN2O2
reactant | 5-(2-chloroethyl)-2-hydroxy-benzenesulfonamide | 1.45 mmol, 0.36 g | ClCCC=1C=CC(=C(C1)S(=O)(=O)N)O | C8H10ClNO3S
reactant | sodium iodide | 1.45 mmol, 0.22 g | [I-].[Na+]
reactant | diisopropylethylamine | 2.88 mmol, 0.50 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 5-(2-{4-[5-(4-Fluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl}-ethyl)-2-hydroxy-benzenesulfonamide | 0.055 g, 16% | FC1=CC=C(C=C1)C1=C(N=C(O1)C1CCN(CC1)CCC=1C=CC(=C(C1)S(=O)(=O)N)O)CO | C23H26FN3O5S
